### PR TITLE
feat: close the integral tendsto zero sorries in uniformIntegrable_predictableSeqTop (#451)

### LINKED ISSUE #451: Doob Meyer Decomposition: Integral tendsto zero
This is equation 5 in https://www.sciencedirect.com/science/article/pii/S0304414911002973:
Image

We need to show that the RHS tendsto zero uniformly, under the assumption that `S` is of class D. This is the sorry in line 687 and 688 in #445. Note that right now we require `isStronglyProgressive` in the definition of class D in our repo, which I don't think is needed for this lemma. The lemma `measure_tauMesh_lt_top_le` may be useful as it proves the following inequality:

Image

### PR DESCRIPTION
**Pull request by raphaelrrcoelho**
closes #451.

fills the two `Tendsto.add` sorries in `uniformIntegrable_predictableSeqTop` (the `integral tendsto zero` step). both summands are discharged by a new private helper `tendsto_iSup_setIntegral_tauMesh_zero`: for a non-positive `a` and a level `b c → ∞`, the supremum over meshes of `∫ a * stoppedValue` over `{τₙ(b c) < ⊤}` tends to `0`. it takes the uniform-integrability `δ` from `hd`, uses `measure_tauMesh_lt_top_le` to push every hitting set below `δ` once `c` is large, and bounds each term through the L¹ `eLpNorm` / `setIntegral` identity. also proves `isStoppingTime_tauMeshLift` (the lift of `τₙ(c)` to a `𝓕`-stopping time), which was a `sorry` and is needed to apply `hd` to the lifted stopping times.

### CODE REVIEW

**Comment by raphaelrrcoelho** [comment]
awaiting-review

**Comment by CoolRmal** [comment]
May you tell me your AI usage for this PR? I am not against you using it, but I just want to make sure you carefully reviewed every single line of this PR.

**Comment by raphaelrrcoelho** [comment]
hi @CoolRmal. I directed Claude heavily here, both to translate the standard argument for this (see below) and for making sure it was idiomatic with the patterns in this repo. It wrote the lean code under my direction.

I reviewed the results and they are aligned  with the standard way to look at this. It's essentially a lift in the mesh stopping time t_n(c) to a F-stopping time, then show the two sup-over-mesh set-integrals tend to 0. It consumes the existing api rather than trying to re-proving anything.

I've gone through the final diff and can walk through. happy to adjust naming/structure, or to split the isStoppingTime_tauMeshLift into smaller PRs.

**Comment by raphaelrrcoelho** [comment]
Maybe to share a little, I'm particularly interested in having this lane into the repo because it's usable for my personal project on financial math, which consumes this.

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 1]
```diff
@@ -619,7 +619,29 @@ lemma isStoppingTime_tauMeshLift {ι Ω : Type*} [TopologicalSpace ι] [SecondCo
     [LinearOrder ι] [OrderBot ι] [OrderTop ι] {mΩ : MeasurableSpace Ω} (S : ι → Ω → ℝ)
     (𝓕 : Filtration ι mΩ) (P : Measure Ω) (n : ℕ) (c : ℝ) :
     IsStoppingTime 𝓕 (tauMeshLift S 𝓕 P n c) := by
-  sorry
+  classical
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
```
Not needed.

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 2]
```diff
@@ -660,6 +682,80 @@ lemma measure_tauMesh_lt_top_le {ι Ω : Type*} [TopologicalSpace ι] [T1Space 
...
     rw [integral_predictableSeqTop_eq_neg_integral_bot hstop n]
 
+/-- For a non-positive constant `a` and a level `b c → ∞`, the supremum over the meshes of the
+integral of `a • (stopped value)` over the hitting set `{τₙ(b c) < ⊤}` tends to `0`. The hitting
+sets have measure `≤ (-∫ S ⊥) / (b c) → 0` uniformly in the mesh (`measure_tauMesh_lt_top_le`),
+and `hd` provides uniform integrability of the stopped values along the lifted stopping times. -/
+private lemma tendsto_iSup_setIntegral_tauMesh_zero {ι Ω : Type*} [TopologicalSpace ι] [T1Space ι]
+    [SecondCountableTopology ι] [MeasurableSpace ι] [LinearOrder ι] [OrderBot ι] [OrderTop ι]
+    {mΩ : MeasurableSpace Ω} {P : Measure Ω} [IsFiniteMeasure P] {S : ι → Ω → ℝ}
+    {𝓕 : Filtration ι mΩ} (hs : Submartingale S 𝓕 P)
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
    {mΩ : MeasurableSpace Ω} {P : Measure Ω} {S : ι → Ω → ℝ} {𝓕 : Filtration ι mΩ}
    [SigmaFiniteFiltration P 𝓕] (hs : Submartingale S 𝓕 P)
```

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 3]
```diff
@@ -683,9 +779,13 @@ lemma uniformIntegrable_predictableSeqTop {ι Ω : Type*} [TopologicalSpace ι]
             -stoppedValue (S ∘ Subtype.val) (tauMesh S 𝓕 P k c) ω ∂P)) tendsto_const_nhds ?_ ?_ ?_
     · rw [← zero_add (0 : ℝ≥0∞)]
       apply Tendsto.add
-      · -- use `hd` to prove the following two sorries
-        sorry
-      · sorry
+      · exact tendsto_iSup_setIntegral_tauMesh_zero hs hd hstop ht (-2) (by norm_num)
+          (fun c => (c : ℝ) / 2)
+          ((NNReal.tendsto_coe_atTop.mpr tendsto_id).atTop_div_const (by norm_num))
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
      · exact tendsto_iSup_setIntegral_tauMesh_zero hs hd hstop ht (-2) (by norm_num)
          (fun c => c / 2) ((NNReal.tendsto_coe_atTop.mpr tendsto_id).atTop_div_const (by norm_num))
```

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 4]
```diff
@@ -683,9 +779,13 @@ lemma uniformIntegrable_predictableSeqTop {ι Ω : Type*} [TopologicalSpace ι]
...
+      · have h := tendsto_iSup_setIntegral_tauMesh_zero hs hd hstop ht (-1) (by norm_num)
+          (fun c => (c : ℝ)) (NNReal.tendsto_coe_atTop.mpr tendsto_id)
+        simp only [neg_one_mul] at h
+        exact h
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
      · simpa using tendsto_iSup_setIntegral_tauMesh_zero hs hd hstop ht (-1) (by norm_num)
          (fun c => c) (NNReal.tendsto_coe_atTop.mpr tendsto_id)
```

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 5]
```diff
@@ -619,7 +619,29 @@ lemma isStoppingTime_tauMeshLift {ι Ω : Type*} [TopologicalSpace ι] [SecondCo
...
+  set T : Finset (mesh ι n) := Finset.univ.filter (fun u => ((u : ι) ≤ s)) with hTdef
+  have hTne : T.Nonempty :=
+    ⟨⊥, by simp only [hTdef, Finset.mem_filter, Finset.mem_univ, true_and]; exact hbot⟩
+  set u : mesh ι n := T.max' hTne
+  have hu_le_s : (u : ι) ≤ s := by
+    have h := T.max'_mem hTne
+    simp only [hTdef, Finset.mem_filter, Finset.mem_univ, true_and] at h
+    exact h
+  have hequiv : ∀ v : mesh ι n, (v : ι) ≤ s ↔ v ≤ u := by
+    intro v
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
  have hequiv (∀ v : mesh ι n) : (v : ι) ≤ s ↔ v ≤ u := by
```
A trick that allows you to not introduce variables when proving these have statements.

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 6]
```diff
@@ -619,7 +619,29 @@ lemma isStoppingTime_tauMeshLift {ι Ω : Type*} [TopologicalSpace ι] [SecondCo
...
+    refine ⟨fun hv => T.le_max' v ?_, fun hv => le_trans (by exact_mod_cast hv) hu_le_s⟩
+    simp only [hTdef, Finset.mem_filter, Finset.mem_univ, true_and]; exact hv
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
    refine ⟨fun hv => T.le_max' v ?_, fun hv => le_trans hv hu_le_s⟩
    simp only [hTdef, Finset.mem_filter, Finset.mem_univ, true_and]; exact hv
```
or even just 
```suggestion
    ⟨fun hv => T.le_max' v (by simp [T, hv]), fun hv => le_trans hv hu_le_s⟩
```
(and remove the `by` tactic above).

We always prefer a single proof term `hv` rather than `by exact hv` or `by exact_mod_cast hv`.

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 7]
```diff
@@ -619,7 +619,29 @@ lemma isStoppingTime_tauMeshLift {ι Ω : Type*} [TopologicalSpace ι] [SecondCo
...
+  have hset : {ω | tauMeshLift S 𝓕 P n c ω ≤ (s : WithTop ι)}
+      = {ω | tauMesh S 𝓕 P n c ω ≤ ((u : mesh ι n) : WithTop (mesh ι n))} := by
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
  have hset : {ω | tauMeshLift S 𝓕 P n c ω ≤ s} = {ω | tauMesh S 𝓕 P n c ω ≤ u} := by
```
Lean is smart enough to infer the correct type and make these coercions.

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 8]
```diff
@@ -619,7 +619,29 @@ lemma isStoppingTime_tauMeshLift {ι Ω : Type*} [TopologicalSpace ι] [SecondCo
     [LinearOrder ι] [OrderBot ι] [OrderTop ι] {mΩ : MeasurableSpace Ω} (S : ι → Ω → ℝ)
     (𝓕 : Filtration ι mΩ) (P : Measure Ω) (n : ℕ) (c : ℝ) :
     IsStoppingTime 𝓕 (tauMeshLift S 𝓕 P n c) := by
-  sorry
+  classical
+  intro s
+  have hbot : ((⊥ : mesh ι n) : ι) ≤ s := by rw [bot_eq_bot]; exact bot_le
+  set T : Finset (mesh ι n) := Finset.univ.filter (fun u => ((u : ι) ≤ s)) with hTdef
+  have hTne : T.Nonempty :=
+    ⟨⊥, by simp only [hTdef, Finset.mem_filter, Finset.mem_univ, true_and]; exact hbot⟩
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
  set T : Finset (mesh ι n) := Finset.univ.filter (fun u => u ≤ s)
  have hTne : T.Nonempty := ⟨⊥, by simp [T]⟩
```
Some parentheses can be deleted. The `with hTdef` is not needed as you can always expand the definition of `T` through `simp [T]`. This change also made the `hbot` lemma unnecessary. Can you also try to golf other lemmas in this proof by using `simp` and `simpa [...] using ...` more often?

Overall I think you are using to many `have` statements and this makes the proof a little bit hard to understand. It would be better if you can use a variety of tactics and both backward and forward reasoning (e.g. `suffices`, `show ... from`).

**Review by CoolRmal — COMMENTED** [review]
I think `tendsto_iSup_setIntegral_tauMesh_zero` is a very useful lemma to have. That said, I wonder if the proof could be reorganized a bit. At the moment, it feels somewhat tailored to this particular sorry, and I find it a little hard to see the overall structure of the argument from the code. In particular, the epsilon–delta details seem to obscure the main idea of the proof.

How about this? We basically want to show that

Image

Let's make the following abstraction. You basically have a uniformly integrable collection of random variables indexed by the pair $$(n,c)$$, so naturally we would like to prove a lemma like the following. 

```
lemma UniformIntegrable.eLpNorm_tendsto_zero_of_iSup_measure_tendsto_zero
    {α ι κ Ω E} [MeasurableSpace Ω] {μ : Measure Ω} [NormedAddCommGroup E]
    {X : α → Ω → E} {p : ℝ≥0∞} (hX : UniformIntegrable X p μ)
    {A : κ → ι → Set Ω} {F : κ → ι → α} {l : Filter κ}
    (hA : Tendsto (fun k ↦ ⨆ i, μ (A k i)) l (𝓝 0)) :
    Tendsto (fun k ↦ ⨆ i, eLpNorm ((A k i).indicator (X (F k i))) p μ) l (𝓝 0) := by
  sorry
```
I imagine this can be a very useful lemma to have in mathlib. I think it is much better if you leave the epsilon delta details inside this lemma, and apply this lemma to prove `tendsto_iSup_setIntegral_tauMesh_zero`. You probably need an additional assumption on `p` in `UniformIntegrable.eLpNorm_tendsto_zero_of_iSup_measure_tendsto_zero`, but I'll let you figure that out.

**Comment by raphaelrrcoelho** [comment]
I see. It makes sense. I was overly focused on the sorrys

i'll lift the core into UniformIntegrable.eLpNorm_tendsto_zero_of_iSup_measure_tendsto_zero. the delta comes straight from the UnifIntegrable field. The only extra side-conditions i'll need are measurability of the sets and p diff drom inf.

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean (hunk 8 above)
Comment (raphaelrrcoelho) [reply BrownianMotion/StochasticIntegral/DoobMeyer.lean]: done in 714f717

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean (hunk 6 above)
Comment (raphaelrrcoelho) [reply BrownianMotion/StochasticIntegral/DoobMeyer.lean]: done in 714f717

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean (hunk 7 above)
Comment (raphaelrrcoelho) [reply BrownianMotion/StochasticIntegral/DoobMeyer.lean]: done in 714f717

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean (hunk 5 above)
Comment (raphaelrrcoelho) [reply BrownianMotion/StochasticIntegral/DoobMeyer.lean]: Ah, didnt know this. Thx.

done in 714f717

**Comment by CoolRmal** [comment]
Can you resolve the conversation if you think you have addressed my comments?
Also I think you are not really following the coding style that I pointed out in the comments above in your new proof (you should read this https://leanprover-community.github.io/contribute/style.html if you have more doubts about the coding style). May you try harder on golfing the proof and make it more concise?

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean [hunk 9]
```diff
@@ -660,6 +673,99 @@ lemma measure_tauMesh_lt_top_le {ι Ω : Type*} [TopologicalSpace ι] [T1Space 
...
+  intro ε hε
+  rcases eq_or_ne ε ∞ with rfl | hεtop
+  · exact Eventually.of_forall fun _ ↦ le_top
+  obtain ⟨δ, hδ, hUI⟩ := hX.2.1 (ENNReal.toReal_pos hε.ne' hεtop)
+  filter_upwards [hA (ENNReal.ofReal δ) (ENNReal.ofReal_pos.mpr hδ)] with k hk
+  refine iSup_le fun i ↦ ?_
+  calc eLpNorm ((A k i).indicator (X (F k i))) p μ
+      ≤ ENNReal.ofReal ε.toReal :=
+        hUI (F k i) (A k i) (hA_meas k i) ((le_iSup (fun i ↦ μ (A k i)) i).trans hk)
+    _ = ε := ENNReal.ofReal_toReal hεtop
```
Comment (CoolRmal) [inline BrownianMotion/StochasticIntegral/DoobMeyer.lean]:
```suggestion
  calc 
    eLpNorm ((A k i).indicator (X (F k i))) p μ
        ≤ ENNReal.ofReal ε.toReal :=
          hUI (F k i) (A k i) (hA_meas k i) ((le_iSup (fun i ↦ μ (A k i)) i).trans hk)
      _ = ε := ENNReal.ofReal_toReal hεtop
```
calc keyword should be placed on the line prior to the start of the calculation

**Comment by raphaelrrcoelho** [comment]
@CoolRmal I converted it to draft again so I can work on your feedback.

I'm going for a rework on `tendsto_iSup_setIntegral_tauMesh_zero` to be in three steps: a) the |a|·L¹-norm identity; b) the measures shrinking; c) a reducing to the norms vanishing.

Plus I will drop the redundant haves (fold hmesh/hg_int in, remove the intermediate hnorm, etc), and switch to have-binders instead of intro, simpa, etc

File: BrownianMotion/StochasticIntegral/DoobMeyer.lean (hunk 9 above)
Comment (raphaelrrcoelho) [reply BrownianMotion/StochasticIntegral/DoobMeyer.lean]: folded the two-step calc into .trans_eq so the calc is gone entirely. done in c170f4d

**Comment by raphaelrrcoelho** [comment]
@CoolRmal just FYI, the PR is ready for review.
